US05162572
Another route was disclosed by early researchers Bouveault and Wahl, Bull. Soc. Chim. France, 31, 847-54 (1904), whereby ethyl acetoacetate was reacted with absolute nitric acid in acetic anhydride at 30°-35° C., but low yields of ethyl nitroacetate were reported. This work was later confirmed by Arndt and Rose in J. Chem. Soc. 1935, 1-10. The major product produced using the conditions of Bouveault and Wahl was found to be diethyl2-oxofurazan dicarboxylate.

reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | ethyl nitroacetate | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
